US08629271B2
b) 9-Bromo-2,2-dimethylnonan-1-ol
To a solution of ethyl 9-bromo-2,2-dimethylnonanoate (example 103, step a) (1.27 g) in dry diethyl ether (40 mL) at 0° C. under N2 was added diisobutylaluminium hydride (1M in toluene, 9.5 mL) dropwise. The reaction mixture was stirred at 0° C. for 1.25 h then quenched by addition of saturated potassium sodium tartrate solution (150 mL). The mixture was stirred for 15 min then extracted with ethyl acetate (×3) then the combined organics were washed with brine, dried over sodium sulphate, filtered and evaporated in vacuo. Purification was by silica gel chromatography eluting with 0-25% ethyl acetate in cyclohexane to give the subtitled compound as a colourless liquid. Yield 0.56 g.

reactant | ethyl 9-bromo-2,2-dimethylnonanoate | BrCCCCCCCC(C(=O)OCC)(C)C | C13H25BrO2
reactant | diisobutylaluminium hydride | 1M, 9.5 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 9-Bromo-2,2-dimethylnonan-1-ol | BrCCCCCCCC(CO)(C)C | C11H23BrO
